US05536718
To a mixture of 4.5 g of methyl 6-aminopyridine-3-carboxylate and 5.53 ml of triethylamine in 40 ml of dichloromethane (cooled in an ice bath) is added 6.38 g of 5-fluoro-2-methylbenzoyl chloride in 10 ml of dichloromethane. The mixture is stirred at room temperature under argon for 18 hours and an additional 3.4 g of 5-fluoro-2-methylbenzoyl chloride added. After stirring at room temperature for 3 hours, the mixture is filtered to give 3.0 g of methyl 6-[[bis(5-fluoro-2-methylbenzoyl)]amino]pyridine-3-carboxylate. The filtrate is concentrated to dryness and the residue triturated with hexane and ethyl acetate to give an additional 9.0 g of bis acylated compound.

reactant | methyl 6-aminopyridine-3-carboxylate | 4.5 g | NC1=CC=C(C=N1)C(=O)OC | C7H8N2O2
reactant | triethylamine | 5.53 ml | C(C)N(CC)CC | C6H15N
reactant | 5-fluoro-2-methylbenzoyl chloride | 6.38 g | FC=1C=CC(=C(C(=O)Cl)C1)C | C8H6ClFO
reactant | 5-fluoro-2-methylbenzoyl chloride | 3.4 g | FC=1C=CC(=C(C(=O)Cl)C1)C | C8H6ClFO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 6-[[bis(5-fluoro-2-methylbenzoyl)]amino]pyridine-3-carboxylate | 3.0 g | FC=1C=CC(=C(C(=O)N(C2=CC=C(C=N2)C(=O)OC)C(C2=C(C=CC(=C2)F)C)=O)C1)C | C23H18F2N2O4
